US07238808B2
5-Bromo-2-methyl-benzenesulfonamide
Prepared by general procedure III from 5-Bromo-2-methyl-benzenesulfonyl chloride (1.89 g, 7 mmol) and ammonium hydroxide (20 mL) to give the title compound (0.96 g, 55%) as awhite solid. MS (ISN) 248.0[(M−H)−], 250.0 [(M+2−H)−].

reactant | 5-Bromo-2-methyl-benzenesulfonyl chloride | 7 mmol, 1.89 g | BrC=1C=CC(=C(C1)S(=O)(=O)Cl)C | C7H6BrClO2S
reactant | ammonium hydroxide | 20 mL | [OH-].[NH4+]
product | 5-Bromo-2-methyl-benzenesulfonamide | 0.96 g, 55% | BrC=1C=CC(=C(C1)S(=O)(=O)N)C | C7H8BrNO2S
